US05241064
A loopful of slant culture of Pimelobacter sp. No. 1254 was inoculated to a medium (80 ml) containing bouillon 1%, glucose 1% and calcium carbonate 0.2%. The flash was incubated with shaking for 24 hours at 30° C. The resultant seed culture (1.6 ml) was inoculated to the same medium (80 ml) and cultured for 2 days at 30° C. Thirty (30) ml of this cultured broth, 3 ml of 1M phosphate buffer (pH 7.5) and 1 g of ethyl 2-(1-acetoxyethyl)acrylate were poured into a 250 ml wide-mouth flask and incubated for 20 hours at 30° C. with shaking. The whole mixture was extracted twice with 40 ml of ethyl acetate and the combined extract was dried. After removal of the solvent in vacuo, the crude material was applied on a silica gel column and developed with a mixture of n-hexane and ethyl acetate (4:1). The fractions containing the desired compounds were collected and dried in vacuo to give 227 mg of ethyl 2-[(1R)-1-hydroxyethyl]acrylate.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
reactant | phosphate | 1M, 3 ml, pH 7.5 | P(=O)([O-])([O-])[O-]
reactant | ethyl 2-(1-acetoxyethyl)acrylate | 1 g | C(C)(=O)OC(C)C(C(=O)OCC)=C | C9H14O4
product | ethyl 2-[(1R)-1-hydroxyethyl]acrylate | 227 mg | O[C@H](C)C(C(=O)OCC)=C | C7H12O3
